US06531492B1
STEP 3: 2-HYDRAZINO-5-(METHANESULFONYL)PYRIDINE HYDROCHLORIDE
The 2,5-bis-methanesulfonyl-pyridine and anhydrous hydrazine are stirred in ethanol for two hours between room temperature and reflux temperature. After cooling to room temperature the mixture is concentrated. The residual solid is washed with aqueous saturated NaHCO3 and water and collected by filtration to give a pale yellow solid. The solid is treated with 10% methanolic HCl and the precipitate is collected by filtration to give the title compound.

reactant | 2,5-bis-methanesulfonyl-pyridine | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
reactant | hydrazine | NN | H4N2
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-HYDRAZINO-5-(METHANESULFONYL)PYRIDINE HYDROCHLORIDE | Cl.N(N)C1=NC=C(C=C1)S(=O)(=O)C | InChI=1S/C6H9N3O2S.ClH/c1-12(10,11)5-2-3-6(9-7)8-4-5;/h2-4H,7H2,1H3,(H,8,9);1H
